US08309583B2
The PCC-based oxidation of 1-adamantanemethanol will furnish 1-adamantanecarboxaldehyde in an 89% yield, as described in the literature [20]. The Schiff base condensation between 1-adamantanecarboxaldehyde and DFOB will yield the imine-based adamantane-DFOB conjugate which will be reduced by sodium cyanoborohydride (NaCNBH3) to give the secondary amine-based adamantane-DFOB conjugate. Sodium cyanoborohydride does not reduce the hydroxamate groups of DFOB to amides [21].

reactant | PCC | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
reactant | 1-adamantanemethanol | C12(CC3CC(CC(C1)C3)C2)CO | C11H18O
product | 1-adamantanecarboxaldehyde | 89% yield | C12(CC3CC(CC(C1)C3)C2)C=O | C11H16O
